US05804588
5Bromo-2[(t-butyloxycarbonyl)(methyl)amino]-8-methoxyquinoline
5-Bromo-2-t-butyloxycarbonylamino-8-Methoxyquinoline (1.21 g) and tetrahydrofuran (20 ml) were combined at room temperature under a nitrogen atmosphere. Sodium hydride (60% dispersion in oil) (164 mg) was added and the reaction mixture stirred for 2 h whilst effervescence occurred and a yellow colour appeared. Iodomethane (0.43 ml) was then added and stirring was continued for 2 h after which time the reaction was diluted with ethyl acetate (100 ml), washed successively with water, saturated aqueous sodium bicarbonate and brine, then dried (magnesium sulphate) and evaporated in vacuo to give the title compound (1.1 g) as a yellow solid.

reactant | 5-Bromo-2-t-butyloxycarbonylamino-8-Methoxyquinoline | 1.21 g | BrC1=C2C=CC(=NC2=C(C=C1)OC)NC(=O)OC(C)(C)C | C15H17BrN2O3
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | Sodium hydride | 164 mg | [H-].[Na+]
reactant | Iodomethane | 0.43 ml | IC | CH3I
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5Bromo-2[(t-butyloxycarbonyl)(methyl)amino]-8-methoxyquinoline | 1.1 g | BrC1=C2C=CC(=NC2=C(C=C1)OC)N(C)C(=O)OC(C)(C)C | C16H19BrN2O3
